US08604034B2
10a-(4-bromophenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (50 mg, 0.15 mmol), tetrakis(triphenylphosphine)palladium(0) (8.7 mg, 7.5 μmol), Zn(CN)2 (27 mg, 0.23 mmol), and DMF (2 mL) were added to a microwave reaction vial that was sealed under argon. The reaction mixture was heated in a microwave reactor at 140° C. for 20 min, resulting in a dark yellow mixture. The reaction mixture was heated for a further 20 min at 150° C. LCMS analysis showed a mixture of target product (279 m/z) and starting bromo core (332/334 m/z). Another portion of tetrakis(triphenylphosphine)palladium (0) (8.7 mg, 7.5 μmol) was added and the mixture heated at 160° C. The reaction went to completion after 20 min. A saturated aqueous solution of NaHCO3 (50 mL) was added and CH2Cl2 containing 20% of propan-2-ol (50 mL). The organic layer was separated, dried (MgSO4) and concentrated in vacuo to give crude product that was purified using flash chromatography (Biotage SP4, 12 g cartridge; 0-10% MeOH gradient in CH2Cl2 to give 4-(5-oxo-2,3-dihydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-10a(10H)-yl)benzonitrile as a brown crystalline solid (48.5 mg, quantitative yield). 1H NMR (400 MHz, d6-acetone): δ 3.07-3.41 (m, 1H), 3.44 (ddd, 1H, J 10.9, 7.8, 3.2 Hz), 3.48-3.61 (m, 1H), 3.72 (dt, 1H, J 10.8, 7.9 Hz), 4.41 (d, 1H, J 12.5 Hz), 4.72 (d, 1H, J 12.5 Hz), 6.04 (dd, 1H, J 3.8, 2.6 Hz), 6.65-6.67 (m, 1H), 6.70 (dd, 1H, J 3.7, 1.5 Hz), 7.55-7.73 (m, 4H). The product was used in the next step without further purification.

reactant | 10a-(4-bromophenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 0.15 mmol, 50 mg | BrC1=CC=C(C=C1)C12N(C(C=3N(C1)C=CC3)=O)CCN2 | C15H14BrN3O
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
reactant | propan-2-ol | 50 mL | CC(C)O | C3H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 7.5 μmol, 8.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Zn(CN)2 | 0.23 mmol, 27 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | tetrakis(triphenylphosphine)palladium | 7.5 μmol, 8.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | MeOH | CO | CH4O
product | 4-(5-oxo-2,3-dihydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-10a(10H)-yl)benzonitrile | 48.5 mg, quantitative yield | O=C1C=2N(CC3(N1CCN3)C3=CC=C(C#N)C=C3)C=CC2 | C16H14N4O
